US09238640B2
A mixture of 2-amino-5-nitro-benzamide (1.81 g, 10.0 mmol), 3,5-dimethoxy-benzaldehyde (1.83 g, 11.0 mmol), sodium hydrogen sulfite (58.5 wt %, 3.94 g, 22.0 mmol), and p-toluenesulfonic acid monohydrate (0.38 g, 2.00 mmol) in N,N-dimethylacetamide (20 mL) was stirred at 150° C. for 17 hours under nitrogen and then cooled to room temperature. Saturated aqueous NaHCO3 (approximately 1 mL) was added. The mixture was stirred at room temperature for 2 hours, then concentrated to dryness. Water (80 mL) was added, stirred for 0.5 hours, and filtered. The solid was air dried. The crude compound was purified by column chromatography (silica gel 230-400 mesh; ethyl acetate as eluent) to give 6-amino-2-(3,5-dimethoxy-phenyl)-3H-quinazolin-4-one as a yellow solid. Yield: 1.50 g (50%).

reactant | 2-amino-5-nitro-benzamide | 10.0 mmol, 1.81 g | NC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H7N3O3
reactant | 3,5-dimethoxy-benzaldehyde | 11.0 mmol, 1.83 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | sodium hydrogen sulfite | 22.0 mmol, 3.94 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 2.00 mmol, 0.38 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | approximately 1 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 6-amino-2-(3,5-dimethoxy-phenyl)-3H-quinazolin-4-one | NC=1C=C2C(NC(=NC2=CC1)C1=CC(=CC(=C1)OC)OC)=O | C16H15N3O3
